US08030306B2
To a round bottom flask was added (S)-8-(4-chlorophenyl)-3-(1-hydroxyethyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-6(5H)-one (35 mg, 0.0648 mmol), Boc-L-Valine (15.5 mg, 0.0713 mmol), CH2Cl2(3 ml), DMAP (cat, 3 mg) and DIC (12.3 mg, 0.0973 mmol). The reaction was stirred at rt for 30 min. After this time, the solution was concentrated. The crude product was purified by silica gel column chromatography (8 g silica gel) eluting with a gradient of 0-50% EtOAc/Hex to give product (S)—((S)-1-(8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-7-phenyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethyl) 2-(tert-butoxycarbonylamino)-3-methylbutanoate, as a white solid (39 mg, 81% yield).

reactant | (S)-8-(4-chlorophenyl)-3-(1-hydroxyethyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-6(5H)-one | 0.0648 mmol, 35 mg | ClC1=CC=C(C=C1)C=1C=2N(N(C(C1C1=CC=CC=C1)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)C(=NN2)[C@H](C)O | C27H21ClF3N5O2
reactant | Boc-L-Valine | 0.0713 mmol, 15.5 mg | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | DIC | 0.0973 mmol, 12.3 mg | CC(N=C=NC(C)C)C | C7H14N2
catalyst | DMAP | 3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | (S)—((S)-1-(8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-7-phenyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethyl) 2-(tert-butoxycarbonylamino)-3-methylbutanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)O[C@@H](C)C1=NN=C2N1N(C(C(=C2C2=CC=C(C=C2)Cl)C2=CC=CC=C2)=O)CC=2C(=NC(=CC2)C(F)(F)F)C)C(C)C | C37H38ClF3N6O5
